Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
Elevated LFTs
 
Major Surgical or Invasive Procedure:
Left brachial PICC inserted ___
Right 3 lumen CVC inserted ___
central line placement
bone marrow biopsy

 
History of Present Illness:
___ year old woman with CML, s/p allogeneic stem cell transplant 
(___), with post transplant period complicated by upper 
and lower GI GVH (biopsy ___, s/p treatment with 
steroids, cyclosporine, and atovaquone. She was recently 
admitted with nausea, vomiting, and diarrhea from ___ to 
___. She responded to steroid and discharged with deemed 
diagnosis of "GVHD". Opon discharged, her LFTS was noticed to be 
trending up. Today, on routine follow up, her LFTs continued to 
trend up, and she will be admitted for suspicion of GVHD and 
further management. 
 
Past Medical History:
Past Oncologic History:
- ___: Asymptomatic abnormal CBC noted by PCP during routine
visit
- ___: Bone marrow biopsy showed myeloproliferative
disorder, likely chronic myelogenous leukemia. Per patient
report, began taking interferon three times weekly shortly
after diagnosis.
- ___: Started Gleevec 400 mg daily. At some point
thereafter, her dose was increased to 600 mg daily
- ___: Gleevec increased to 400 mg twice daily with
hydroxyurea and allopurinol
- ___: Seen at ___, found to be
in late chronic phase CML. Stem cell transplant was
recommended, but she did not wish to pursue this course.
- ___: Gleevec held due to worsening anemia and
thrombocytosis. Started on Nilotinib
- ___: Nilotinib held due to QTC prolongation, started on
Dasatinib
- ___: First seen at ___. Bone marrow biopsy showed
accelerated phase CML. began induction chemo with 7+3.
- ___: Admission for MRD SCT
- ___: Discharged on day +32. Transplant complicated by
mucositis with biopsy of the esophagus suggesting upper GI
GVHD which was treated with steroids.
- ___: Admission for GVH of the gut, verified by biopsy
on ___
- ___: Discharge on methylprednisolone and cyclosporine
.
Other Past Medical History:
- CML diagnosed in ___ - had a siblinng allo SCT in ___
- atherosclerotic coronary vascular disease - no angina
- status post CABG in ___
- hypertension
- hyperlipidemia
- DVT in L leg ___ years ago - was seemingly treated for this and 
occurred after hitting her foot?
P Surgical Hx
- Right ankle surgery in ___
- Total abdominal hysterectomy in ___
- Appendectomy at age ___
No problems with GA
 
Social History:
___
Family History:
- father - died of MI, nil other health problems
- mother - had heart problems, DM
Four siblings
- 2 bothers had CABG
- 1 brother prostate cancer
- Her sister ___ is her donor and is well
 
Physical Exam:
VS: T 97.8 BP 116/65 HR 108 RR18 sO2 98% RA 
GENERAL: Pleasant, conversant, well groomed, in no 
acute distress. 
HEENT: EOMI, PERRL, sclera anicteric, oropharynx moist and 
without lesions, tongue coated with no thrush. 
NECK: Without masses, thyromegaly
LYMPH: No cervical, supraclavicular, axillary, inguinal 
lymphadenopathy
RS: Respirations unlabored. Clear to auscultation bilaterally
___: Regular rate and rhythm, normal S1 and S2, no murmurs, 
rubs, or gallops no carotid bruits. JVP mildly depressed at 2cm 
above sternal angle.
GI: Soft, non-tender, non-distended. Normal bowel sounds. No 
hepatosplenomegaly
EXT: No clubbing, cyanosis, brittle nails with 1+ pitting edema 
to mid-shins bilaterally
SKIN: ecchymosis on forearms bilaterally.
NEURO: Alert and oriented x3. Wasting of proximal musculature. 
CN II- XII grossly normal, nonfocal.
.
GEN: [x]NAD []Cachectic  
SKIN: [x]WNL--> has ecchymoses, looking lighter, lesion healing 
well, line looks good  
HEENT: [x]Anicteric [x]MMM [x]OP Clear [x]No LAD  
CV: [x]RRR [x]NML S1 S2 [x]no g/m/r [x]no JVD  
RESP: [x]CTAB [x]no wheezes/rhonchi/rales  
ABD: [x]S/NT/ND [x]+BS [x]No HSM  
EXT: [x]No CCE [x] +2 DP B/L  
NEURO: [x]A&Ox3 [x]CN2-12 intact [x] motor [x] sensory [x]coord 
[x]language normal  

 
Pertinent Results:
___ 12:00AM BLOOD WBC-2.5* RBC-2.79* Hgb-9.5* Hct-26.4* 
MCV-95 MCH-34.1* MCHC-36.0* RDW-22.6* Plt Ct-58*
___ 05:14PM BLOOD WBC-3.9* RBC-3.04*# Hgb-9.8*# Hct-28.0*# 
MCV-92 MCH-32.1* MCHC-34.8 RDW-21.1* Plt Ct-58*
___ 12:00AM BLOOD WBC-2.7* RBC-2.24* Hgb-7.5* Hct-21.0* 
MCV-94 MCH-33.3* MCHC-35.5* RDW-22.9* Plt Ct-53*
___ 12:00AM BLOOD WBC-4.3 RBC-2.59* Hgb-8.5* Hct-24.1* 
MCV-93 MCH-32.9* MCHC-35.4* RDW-22.6* Plt Ct-56*
___ 12:00AM BLOOD WBC-6.3 RBC-2.75* Hgb-8.8* Hct-25.6* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-21.2* Plt Ct-60*
___ 08:14PM BLOOD WBC-7.2 RBC-2.68* Hgb-8.8* Hct-25.1* 
MCV-94 MCH-32.7* MCHC-35.0 RDW-21.6* Plt Ct-54*
___ 12:00AM BLOOD WBC-12.2* RBC-3.04* Hgb-9.6* Hct-28.2* 
MCV-93 MCH-31.8 MCHC-34.3 RDW-20.4* Plt Ct-65*
___ 12:00AM BLOOD WBC-9.1 RBC-2.93* Hgb-9.6* Hct-28.1* 
MCV-96 MCH-32.6* MCHC-34.0 RDW-21.1* Plt Ct-66*
___ 12:00AM BLOOD WBC-8.8 RBC-2.79* Hgb-9.2* Hct-25.7* 
MCV-92 MCH-32.9* MCHC-35.7* RDW-20.8* Plt Ct-60*
___ 12:00AM BLOOD WBC-8.2 RBC-3.06* Hgb-9.8* Hct-28.5* 
MCV-93 MCH-31.9 MCHC-34.3 RDW-20.8* Plt Ct-67*
___ 06:50AM BLOOD WBC-7.0 RBC-3.02* Hgb-9.6* Hct-27.8* 
MCV-92 MCH-31.9 MCHC-34.6 RDW-20.6* Plt Ct-61*
___ 12:00AM BLOOD WBC-10.7# RBC-3.55* Hgb-11.3* Hct-32.6* 
MCV-92 MCH-31.7 MCHC-34.5 RDW-19.8* Plt ___
___ 09:30AM BLOOD WBC-5.1# RBC-3.27* Hgb-10.6* Hct-29.3* 
MCV-90 MCH-32.4* MCHC-36.1* RDW-19.9* Plt Ct-72*
___ 12:14AM BLOOD WBC-2.9* RBC-3.05* Hgb-9.8* Hct-27.9* 
MCV-92 MCH-32.3* MCHC-35.3* RDW-19.9* Plt Ct-75*
___ 12:05AM BLOOD WBC-3.1* RBC-3.56* Hgb-11.4* Hct-32.3* 
MCV-91 MCH-31.9 MCHC-35.2* RDW-19.7* Plt ___
___ 05:50AM BLOOD WBC-4.6# RBC-4.10* Hgb-12.5 Hct-35.6* 
MCV-87 MCH-30.4 MCHC-35.1* RDW-18.7* Plt ___
___ 05:45AM BLOOD WBC-2.8* RBC-3.66* Hgb-11.5* Hct-32.7* 
MCV-89 MCH-31.5 MCHC-35.3* RDW-19.9* Plt Ct-88*
___ 06:00AM BLOOD WBC-2.2* RBC-3.50* Hgb-11.2* Hct-31.5* 
MCV-90 MCH-31.9 MCHC-35.4* RDW-20.4* Plt Ct-71*
___ 09:05AM BLOOD WBC-2.4* RBC-3.62* Hgb-11.0* Hct-32.2* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-19.7* Plt Ct-65*
___ 06:00AM BLOOD WBC-3.6*# RBC-3.43* Hgb-11.1* Hct-30.9* 
MCV-90 MCH-32.2* MCHC-35.8* RDW-20.8* Plt Ct-70*
___ 03:00PM BLOOD WBC-8.2# RBC-4.36# Hgb-13.1# Hct-38.6# 
MCV-88 MCH-30.0 MCHC-34.0 RDW-20.1* Plt ___
___ 12:00AM BLOOD Neuts-69 Bands-8* Lymphs-13* Monos-2 
Eos-0 Baso-0 Atyps-2* Metas-3* Myelos-3* NRBC-6*
___ 12:00AM BLOOD Neuts-80* Bands-3 Lymphs-6* Monos-6 Eos-0 
Baso-0 ___ Metas-2* Myelos-3* NRBC-1*
___ 12:00AM BLOOD Neuts-83* Bands-4 Lymphs-3* Monos-7 Eos-0 
Baso-0 Atyps-1* Metas-1* Myelos-1* NRBC-2*
___ 12:00AM BLOOD Neuts-93* Bands-2 Lymphs-2* Monos-1* 
Eos-0 Baso-0 ___ Metas-1* Myelos-1*
___ 08:14PM BLOOD Neuts-88* Bands-4 Lymphs-3* Monos-4 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 12:00AM BLOOD Neuts-85* Bands-3 Lymphs-5* Monos-1* 
Eos-0 Baso-0 ___ Metas-3* Myelos-2* Promyel-1*
___ 12:00AM BLOOD Neuts-78* Bands-13* Lymphs-4* Monos-1* 
Eos-0 Baso-0 ___ Metas-4* Myelos-0 NRBC-1*
___ 12:00AM BLOOD Neuts-90* Bands-2 Lymphs-1* Monos-2 Eos-0 
Baso-0 Atyps-1* Metas-3* Myelos-1* Promyel-0
___ 12:00AM BLOOD Neuts-72* Bands-8* Lymphs-7* Monos-3 
Eos-0 Baso-0 ___ Metas-8* Myelos-2*
___ 06:50AM BLOOD Neuts-59 Bands-11* Lymphs-10* Monos-2 
Eos-0 Baso-0 Atyps-1* Metas-13* Myelos-4*
___ 12:00AM BLOOD Neuts-71* Bands-0 Lymphs-9* Monos-4 Eos-0 
Baso-0 ___ Metas-8* Myelos-8* NRBC-4*
___ 12:14AM BLOOD Neuts-73* Bands-1 Lymphs-9* Monos-7 Eos-1 
Baso-0 Atyps-1* Metas-5* Myelos-3* NRBC-1*
___ 05:50AM BLOOD Neuts-61 Bands-9* Lymphs-5* Monos-15* 
Eos-0 Baso-0 Atyps-3* Metas-3* Myelos-3* Promyel-1* NRBC-2*
___ 05:45AM BLOOD Neuts-58 Bands-12* Lymphs-9* Monos-12* 
Eos-0 Baso-0 Atyps-1* Metas-2* Myelos-3* Promyel-3*
___ 06:00AM BLOOD Neuts-59 Bands-7* Lymphs-13* Monos-17* 
Eos-0 Baso-0 Atyps-3* ___ Myelos-1*
___ 09:05AM BLOOD Neuts-74* Bands-1 Lymphs-17* Monos-7 
Eos-0 Baso-0 ___ Myelos-1*
___ 03:00PM BLOOD Neuts-61 Bands-4 Lymphs-9* Monos-14* 
Eos-1 Baso-0 Atyps-1* Metas-3* Myelos-7* NRBC-1*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-3+ Microcy-1+ Polychr-1+ Spheroc-2+ Ovalocy-1+ 
Schisto-1+ Stipple-OCCASIONAL Tear Dr-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-1+ Polychr-1+ Spheroc-1+ Ovalocy-1+ 
Schisto-1+ Stipple-OCCASIONAL Tear Dr-1+
___ 08:14PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-OCCASIONAL Tear Dr-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-2+ Microcy-NORMAL Polychr-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-3+ Microcy-NORMAL Polychr-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-2+ Microcy-1+ Polychr-OCCASIONAL Spheroc-OCCASIONAL 
Schisto-OCCASIONAL
___ 06:50AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-OCCASIONAL Polychr-1+ Ovalocy-1+ Target-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 12:14AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Spheroc-1+ Ovalocy-1+ 
Schisto-OCCASIONAL Tear Dr-1+
___ 05:45AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Tear ___
___ 06:00AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Tear ___
___ 09:05AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-1+ 
Stipple-OCCASIONAL Tear Dr-1+
___ 03:00PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-OCCASIONAL Ovalocy-OCCASIONAL 
Schisto-OCCASIONAL Tear ___
___ 12:00AM BLOOD ___ PTT-23.4 ___
___ 12:00AM BLOOD ___ PTT-24.6 ___
___ 12:00AM BLOOD ___ PTT-24.3 ___
___ 12:00AM BLOOD ___ PTT-23.6 ___
___ 08:14PM BLOOD ___ PTT-24.6 ___
___ 12:00AM BLOOD ___ PTT-24.2 ___
___ 12:00AM BLOOD ___ PTT-24.2 ___
___ 12:00AM BLOOD ___ PTT-24.8 ___
___ 12:00AM BLOOD ___ PTT-30.9 ___
___ 06:50AM BLOOD ___ PTT-23.1 ___
___ 12:00AM BLOOD ___ PTT-30.6 ___
___ 12:14AM BLOOD ___ PTT-27.5 ___
___ 10:40AM BLOOD ___ PTT-28.6 ___
___ 05:50AM BLOOD ___ PTT-22.1 ___
___ 05:45AM BLOOD ___ PTT-23.0 ___
___ 06:00AM BLOOD ___ PTT-23.7 ___
___ 09:05AM BLOOD ___ PTT-23.0 ___
___ 03:00PM BLOOD ___ ___
___ 12:00AM BLOOD Glucose-156* UreaN-22* Creat-0.3* Na-133 
K-4.4 Cl-103 HCO3-23 AnGap-11
___ 12:00AM BLOOD Glucose-150* UreaN-20 Creat-0.3* Na-134 
K-3.9 Cl-105 HCO3-24 AnGap-9
___ 12:00AM BLOOD Glucose-175* UreaN-20 Creat-0.3* Na-135 
K-3.9 Cl-105 HCO3-24 AnGap-10
___ 12:00AM BLOOD Glucose-195* UreaN-20 Creat-0.3* Na-135 
K-3.9 Cl-105 HCO3-23 AnGap-11
___ 08:14PM BLOOD Glucose-190* UreaN-19 Creat-0.3* Na-134 
K-3.7 Cl-107 HCO3-22 AnGap-9
___ 12:00AM BLOOD Glucose-192* UreaN-21* Creat-0.4 Na-135 
K-3.7 Cl-107 HCO3-20* AnGap-12
___ 12:00AM BLOOD Glucose-177* UreaN-18 Creat-0.3* Na-130* 
K-3.9 Cl-103 HCO3-20* AnGap-11
___ 12:00AM BLOOD Glucose-185* UreaN-14 Creat-0.3* Na-135 
K-4.0 Cl-105 HCO3-23 AnGap-11
___ 12:00AM BLOOD Glucose-189* UreaN-13 Creat-0.3* Na-135 
K-3.5 Cl-103 HCO3-22 AnGap-14
___ 06:50AM BLOOD Glucose-127* UreaN-15 Creat-0.3* Na-132* 
K-3.9 Cl-104 HCO3-24 AnGap-8
___ 12:00AM BLOOD Glucose-171* UreaN-18 Creat-0.4 Na-133 
K-3.3 Cl-101 HCO3-23 AnGap-12
___ 12:14AM BLOOD Glucose-157* UreaN-22* Creat-0.4 Na-132* 
K-3.9 Cl-104 HCO3-21* AnGap-11
___ 12:05AM BLOOD Glucose-188* UreaN-32* Creat-0.6 Na-132* 
K-3.6 Cl-104 HCO3-19* AnGap-13
___ 05:50AM BLOOD Glucose-155* UreaN-28* Creat-0.6 Na-134 
K-3.8 Cl-104 HCO3-20* AnGap-14
___ 05:45AM BLOOD Glucose-174* UreaN-21* Creat-0.5 Na-136 
K-4.1 Cl-106 HCO3-22 AnGap-12
___:00AM BLOOD Glucose-122* UreaN-15 Creat-0.5 Na-137 
K-4.1 Cl-105 HCO3-23 AnGap-13
___ 09:05AM BLOOD Glucose-96 UreaN-21* Creat-0.5 Na-139 
K-3.7 Cl-109* HCO3-22 AnGap-12
___ 06:00AM BLOOD Glucose-103* UreaN-18 Creat-0.5 Na-139 
K-4.2 Cl-109* HCO3-22 AnGap-12
___ 03:00PM BLOOD UreaN-23* Creat-0.6 Na-139 K-3.2* Cl-105 
HCO3-21* AnGap-16
___ 12:00AM BLOOD ALT-146* AST-48* LD(___)-353* 
AlkPhos-116* TotBili-1.5
___ 12:00AM BLOOD ALT-149* AST-46* LD(___)-296* 
AlkPhos-118* TotBili-0.8
___ 12:00AM BLOOD ALT-170* AST-53* LD(LDH)-308* 
AlkPhos-133* TotBili-0.9
___ 12:00AM BLOOD ALT-162* AST-47* LD(LDH)-302* 
AlkPhos-135* TotBili-0.8
___ 08:14PM BLOOD ALT-170* AST-48* LD(LDH)-305* 
AlkPhos-133* TotBili-0.7
___ 12:00AM BLOOD ALT-199* AST-58* LD(___)-367* 
AlkPhos-145* TotBili-1.0
___ 12:00AM BLOOD ALT-198* AST-72* LD(___)-393* 
AlkPhos-133* TotBili-1.1
___ 12:00AM BLOOD ALT-169* AST-61* LD(___)-360* 
AlkPhos-121* Amylase-51 TotBili-1.1
___ 12:00AM BLOOD ALT-160* AST-58* LD(___)-395* 
AlkPhos-120* TotBili-1.4
___ 06:50AM BLOOD ALT-153* AST-46* LD(___)-373* 
AlkPhos-107* TotBili-1.2
___ 12:00AM BLOOD ALT-193* AST-62* LD(___)-506* AlkPhos-97 
TotBili-2.3*
___ 12:14AM BLOOD ALT-228* AST-61* LD(___)-544* AlkPhos-87 
TotBili-2.9*
___ 10:40AM BLOOD ALT-289* AST-82* LD(___)-538* AlkPhos-104 
TotBili-5.1* DirBili-3.8* IndBili-1.3
___ 12:05AM BLOOD ALT-342* AST-109* LD(___)-498* 
AlkPhos-121* TotBili-5.7* DirBili-4.2* IndBili-1.5
___ 05:50AM BLOOD ALT-433* AST-109* LD(___)-303* 
AlkPhos-142* TotBili-1.6*
___ 05:45AM BLOOD ALT-422* AST-133* LD(___)-314* 
AlkPhos-160* TotBili-1.9* DirBili-1.3* IndBili-0.6
___ 06:00AM BLOOD ALT-298* AST-74* LD(___)-282* 
AlkPhos-146* TotBili-1.6*
___ 09:05AM BLOOD ALT-350* AST-98* LD(___)-279* 
AlkPhos-148* TotBili-1.0
___ 06:00AM BLOOD ALT-343* AST-123* AlkPhos-132* 
TotBili-1.0
___ 03:00PM BLOOD ALT-362* AST-109* LD(LDH)-404* 
AlkPhos-142* TotBili-1.1
___ 12:00AM BLOOD Albumin-2.8* Calcium-8.3* Phos-3.7 Mg-1.8
___ 12:00AM BLOOD Albumin-2.5* Calcium-7.7* Phos-3.7 Mg-1.8
___ 12:00AM BLOOD Albumin-2.7* Calcium-7.8* Phos-3.4 Mg-1.7
___ 12:00AM BLOOD Albumin-2.7* Calcium-7.4* Phos-2.9 Mg-1.9
___ 08:14PM BLOOD Albumin-2.6* Calcium-7.5* Phos-3.0 Mg-1.7
___ 12:00AM BLOOD Albumin-2.6* Calcium-8.0* Phos-3.5 Mg-1.8
___ 12:00AM BLOOD Albumin-2.7* Calcium-7.8* Phos-3.1 Mg-1.6
___ 12:00AM BLOOD Albumin-2.7* Calcium-7.5* Phos-3.4 Mg-1.7 
Iron-130
___ 12:00AM BLOOD Albumin-2.6* Calcium-7.7* Phos-3.5 Mg-1.7
___ 06:50AM BLOOD Albumin-2.5* Calcium-8.1* Phos-3.2 
Mg-1.5*
___ 12:00AM BLOOD Albumin-2.8* Calcium-8.0* Phos-2.9 Mg-1.7
___ 12:14AM BLOOD Albumin-2.6* Calcium-7.5* Phos-2.7 Mg-1.6
___ 10:40AM BLOOD Albumin-2.8*
___ 12:05AM BLOOD Albumin-2.8* Calcium-7.8* Phos-3.5 Mg-1.6
___ 05:50AM BLOOD Albumin-3.1* Calcium-8.6 Phos-4.3 Mg-1.6 
Cholest-202*
___ 05:45AM BLOOD Albumin-3.2* Calcium-8.3* Phos-4.0 Mg-1.6
___ 06:00AM BLOOD Albumin-3.2* Calcium-8.7 Phos-4.0 Mg-1.5*
___ 09:05AM BLOOD Albumin-3.3* Calcium-8.8 Phos-3.3 Mg-1.6
___ 06:00AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.6
___ 03:00PM BLOOD Albumin-3.9 Calcium-9.1 Phos-3.7 Mg-1.6
___ 12:00AM BLOOD calTIBC-134* Ferritn-6629* TRF-103*
___ 05:50AM BLOOD Triglyc-574* HDL-30 CHOL/HD-6.7 
LDLmeas-86
___ 09:42AM BLOOD Cyclspr-98*
___ 09:56AM BLOOD Cyclspr-126
___ 09:41AM BLOOD Cyclspr-126
___ 09:41AM BLOOD Cyclspr-112
___ 09:52AM BLOOD Cyclspr-153
___ 09:45AM BLOOD Cyclspr-173
___ 10:07AM BLOOD Cyclspr-189
___ 08:55AM BLOOD Cyclspr-178
___ 12:04PM BLOOD Cyclspr-201
___ 09:30AM BLOOD Cyclspr-153
___ 09:15AM BLOOD Cyclspr-133
___ 09:10AM BLOOD Cyclspr-119
___ 11:25AM BLOOD Cyclspr-66*
.
Specialist labs
.
Vitamin D ___
VITAMIN D, 25 OH, TOTAL       17  L               ___ ng/mL
VITAMIN D, 25 OH, D3          17                  ng/mL
VITAMIN D, 25 OH, D2          <4                  ng/mL
 
         ___ indicates both endogenous production and
         supplementation. 25-OHD2 is an indicator of exogenous
         sources such as diet or supplementation. Therapy is 
based on
         measurement of Total 25-OHD, with levels <20 ng/mL 
indicative
         of Vitamin D deficiency, while levels between 20 ng/mL 
and
         30 ng/mL suggest insufficiency. Optimal levels are
         > or = 30 ng/mL.
.
.Urine
.
___ 06:26AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:26AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 06:26AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 06:26AM URINE Mucous-RARE
.
.
Microbiology
.
___ 06:44PM BLOOD HAV Ab-POSITIVE IgM HAV-NEGATIVE
___ HSV Ab -ve, EBV ___ copies, rpt not analysable ___, 
HHV6 and Adeno not detected ___
.
FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
___ CMV not detectable 
.
LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
8:36 AM 
FINDINGS: Normal liver parenchymal echogenicity. There is a 
well-demarcated 1.5 x 1.2 x 2.5 cm hyperechoic focus adjacent to 
the portal vein in the right lobe of liver. The appearances are 
typical of an area of focal fatty infiltration. No suspicious 
liver lesion is identified. Echogenic sludge is identified 
within the gallbladder. No biliary dilatation. The common duct 
measures 3 mm maximally. Normal appearance of the pancreatic 
head and body. The tail was poorly visualized due to overlying 
bowel gas (2.5 cm). The left, middle and right hepatic veins 
appear normal on Doppler examination. In addition normal flow 
was seen within the right, main and left portal veins. Normal 
appearance of the IVC and superior mesenteric vein. Of note, 
there is persistent splenomegaly with the spleen measuring 18 cm 
in long axis. 
IMPRESSION: 
1. No evidence of portal vein or hepatic vein thrombus.  
2 2.5 cm area of focal fatty infiltration adjacent to the 
proximal 
intrahepatic portal vein. 
3. Small gallstones 
.
MR 3D RENDERING W/POST PROCESSING ON INDEPENDENT WS Study Date 
of ___ 12:56 ___ 
IMPRESSION: 
1. Enteritis involving the third and fourth portions of duodenum 
and proximal jejunum which may be inflammatory or infectious in 
origin.  
2. Small stones in the gallbladder without evidence of 
intrahepatic or 
extrahepatic biliary dilatation. 
3. Hemosiderosis in the liver and spleen. 
4. Focal ectasia of infrarenal abdominal aorta up to 1.9 cm. 
.
US EXTREMITY NONVASCULAR LEFT Study Date of ___ 9:38 AM 
IMPRESSION:   
Subcutaneous edema corresponding with site of palpable 
abnormality. 
No abnormal collection identified 
.
CT ABDOMEN&PELVIS W/O CONTRAST Study Date of ___ 5:42 ___ 
IMPRESSION:  
1. Hemosiderosis.  
2. Mural thickening and edema of the duodenum, jejunal and ileal 
loops with relative sparing of the terminal ileum and the colon. 
Differential would include graft-versus-host disease and less 
likely differentials include infection or inflammatory 
disorders. 
3. Splenomegaly. 
4. Small volume ascites. 
.
UNILAT UP EXT VEINS US LEFT Study Date of ___ 2:29 ___ 
IMPRESSION:   
Occlusive clot in the deep veins of the left arm extending from 
the subclavian vein into the left basilic vein where PICC line 
is placed. 
.
UNILAT UP EXT VEINS US RIGHT Study Date of ___ 9:48 ___ 
IMPRESSION: No evidence of left upper extremity DVT. Limited 
evaluation of 
basilic vein. 

___ 12:00AM BLOOD WBC-1.8* RBC-2.75* Hgb-9.7* Hct-27.4* 
MCV-100* MCH-35.4* MCHC-35.5* RDW-21.1* Plt Ct-38*
___ 12:00AM BLOOD WBC-2.4* RBC-2.69* Hgb-9.6* Hct-26.4* 
MCV-98 MCH-35.7* MCHC-36.5* RDW-21.8* Plt Ct-42*
___ 12:00AM BLOOD Neuts-54 Bands-2 ___ Monos-10 Eos-0 
Baso-0 Atyps-4* Metas-2* Myelos-3*
___ 12:00AM BLOOD Neuts-70 Bands-1 Lymphs-11* Monos-10 
Eos-0 Baso-0 ___ Metas-5* Myelos-3* NRBC-3*
___ 12:00AM BLOOD Neuts-59 Bands-1 Lymphs-17* Monos-16* 
Eos-0 Baso-0 Atyps-4* Metas-1* Myelos-1* Promyel-1* NRBC-4*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-1+
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-3+ Microcy-1+ Polychr-1+ Spheroc-1+ Ovalocy-1+ Tear 
___
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-2+ 
Macrocy-2+ Microcy-1+ Polychr-NORMAL Tear ___ 
___
___ 12:00AM BLOOD Plt Ct-38*
___ 12:00AM BLOOD ___ PTT-23.3 ___
___ 12:00AM BLOOD Plt Smr-VERY LOW Plt Ct-42*
___ 12:00AM BLOOD ___ PTT-23.8 ___
___ 12:00AM BLOOD Plt Ct-54*
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD ___ ___
___ 12:00AM BLOOD Glucose-101* UreaN-25* Creat-0.5 Na-132* 
K-4.6 Cl-103 HCO3-23 AnGap-11
___ 12:00AM BLOOD Glucose-186* UreaN-35* Creat-0.4 Na-135 
K-4.4 Cl-107 HCO3-23 AnGap-9
___ 12:00AM BLOOD Glucose-130* UreaN-28* Creat-0.5 Na-135 
K-4.0 Cl-104 HCO3-21* AnGap-14
___ 12:00AM BLOOD ALT-163* AST-61* LD(LDH)-407* AlkPhos-78 
TotBili-0.6
___ 12:00AM BLOOD ALT-161* AST-70* LD(___)-412* AlkPhos-71 
TotBili-0.4
___ 12:00AM BLOOD ALT-152* AST-73* AlkPhos-71 TotBili-0.5
___ 12:00AM BLOOD Calcium-7.8* Phos-3.8 Mg-1.8
___ 12:00AM BLOOD Calcium-7.5* Phos-3.3 Mg-2.1
___ 12:00AM BLOOD Calcium-8.1* Phos-4.1 Mg-2.0
___ 12:00AM BLOOD ___ Ferritn-6300* TRF-152*
___ 12:00AM BLOOD IgG-73* IgA-26* IgM-35*
___ 10:39AM BLOOD Cyclspr-134
___ 09:51AM BLOOD Cyclspr-107
___ 09:05AM BLOOD Cyclspr-142
___ 09:45AM BLOOD Cyclspr-209
___ 09:50AM BLOOD Cyclspr-129
___ 09:25AM BLOOD Cyclspr-88*
 
Brief Hospital Course:
___ year old woman with CML, s/p MRD allo SCT ___ with 
Busulfan/Cyclophosphamide. Her post-transplant course was 
complicated with GVH of the upper and lower GI tract that 
required hopitalization for IV steroids and increased 
immunosuppression. She was admitted for investigation of 
worsening LFTs. She was treated with high dose IV 
methylprednisolone, oral Mycophenolate mofetil and increasing 
cyclosporin doses. She quickly developed symptoms suggestive of 
GI GVHD with cramping ___ pain, nausea and vomiting. LFTs 
worsened during admission but she did not necessitate a liver 
biopsy due to considerable improvement in these following 
increased immunosuppression. The general picture was that of 
severe multi-organ GVHD. Her GI symptoms worsened with abdominal 
pain and profuse watery diarrhea and she had a CT scan which 
demonstrtaed confluent small bowel enteritis. At this point she 
was placed on bowel rest and administered TPN. GVHD was 
confirmed at endoscopy and biopsy where mucosa was noted to be 
friable and extensively ulcerated in keeping with severe GVHD. 
Her cyclosporin was titrated up and her symptoms improved 
although diarrhea persisted despite a considerable period of 
bowel rest on TPN. Her Hb/HCt had been slowly falling and her 
stool was found to be guaiac +ve felt likely 2o to her bowel 
inflammation. She was found to have a swollen left arm shortly 
after a PICC line was placed and there was evidence of an 
extensive LUE DVT extending to the subclavian vein. This was 
treated conservatively as anticoagulation was felt to be 
inadvisable in the setting of her continued bowel inflamation 
and guaiac +ve stools. Due to problmes of low cyclosporin levels 
her cyclosporina nd mycophenolate were changed to IV on ___. 
WBC count progressively dropped ? cause and she may need a bone 
marrow biopsy soon if her counts do not improve. She was 
continued on IV methylprednisolone mycophenolate and cyclosporin 
w/continued TPN for bowel rest. Blood glucoses high and 
titrating up insulin in TPN in addition to addingNPH low dose 
BID on ___. Gradually, diarrhea improved and pt was able to be 
transitioned slowly to PO medications. Levels of cyclosporin 
were monitored to ensure therapuetic range and absorptions. 
Slowly pt's diet was also advanced and at discharge pt was off 
TPN. Closes follow-up was planned on ___.
.
# Rising LFTs:  This was found to be liver GVHD.  Progressively 
settling following GVHD treatment. Mildly elevated on previous 
admission in week prior to current admission. She was initially 
asymptomatic although latterly developed severe diarrhea, nausea 
and vomiting. Her steroids initially oral prednisone were 
increased to IVMP 30mg bid and cyclosporin was gradually 
uptitrated. She had ___ U/S ___ which showed focal fatty 
infiltrate and nil else. Bil rose from 1.6 on ___ and 
transaminases were progressively rising. MRCP on ___ showed 
hemosiderosis of liver and spleen, thickening of duodenum and 
___ jejunum in keeping with inflammatory/infectious etiology 
and a small stone in GB. Seen by hepatology ___ and lab 
investigations for vit D,  Hep B/C/Adeno/CMV/HHV6/EBV PCRs, Hep 
A Ab, HSV Ab. These all came back -ve save vit D level which was 
low and seh was sterted on vitamin D supplementation. Put on 
bowel rest and started on TPN. Bil rose from 1.6 to 5.7 on ___ 
with improved transaminases. By repeat on ___ Bil level had 
dropped to 5.1 and by ___ Bil dropped to 2.9 with improved 
transaminases. She therefore did not go for liver bx. LFTs 
continued to trend down with high levels of immunosuppression. 
Slowly immunosuppression was titrated down and LFTs remained 
stable as diarrhea continued to improve. Transition to PO 
fluconazole resulted in rise in LFTs w/out evidence of other 
worsening GVHD symptoms so pt was restarted on home 
voriconazole. LFTs will continued to be monitored as meds are 
titrated on an outpt basis.
.
# CML: s/p allo SCT. She continues to recover from her 
transplant. Guaiac +ve stol ___ and transfused 1 unit 
___. Transfusion goal HCt >25 Plt >20. 
.
# GVHD ___ pain, nausea and  vomiting and elevated LFTs): 
Previous significant upper and lower GI GVHD. She ws found on 
this admission to again have severe GVHD in his case involving 
the small bowel and liver. On admission she was started on IV 
methylpred 30mg bid. Whilst she was asymptomatic on admission, 
she quickly developed abdominal pain, nausea and vomiting felt 
likely to be GVHD. Increased cyclosporin to 75mg bid, added 
mycophenolate 500mg bid and voriconazole 200mg bid on ___. 
Increased mycophenolate to 1g bid on ___. Cyclosporin 119 and 
increased cyclosporin to 100mg bid ___ then 125mg bid ___. As 
high level changed to 125/100 on ___. Cyclopsorin increased to 
125mg bid ___ and 150mg bid ___ due to persistently low 
levels and felt that this was likely due to poor absorption from 
the gut. SShe had suprapubic tenderness with diarrhea as of ___ 
- NOT peritonitic. Initially felt to be ? inadequately treated 
UTI (Enterobacter in UCx in week prior and Rx levo for 3 days). 
Rpt UA and UCx were -ve. Started on oral cipro ___.. Due to 
diarrhea was changed to IV cipro/metronidazole ___. MRI showed 
duodenitis/jejunitis ? infectious ? inflammatory. Supportive IV 
fluids where given and then TPN was started for nutritional 
support. High stool output. Seen by GI ___ who recommended 
stool studies which were negative. Changed Abx to IV meropenem 
___. ___ ___ showed small bowel enteritis 
encompassing most of small bowel with no dilatation. UGIE and bx 
___ showed abnormal, friable mucosa throughout approximately 
75% of the duodenum which was denuded with a shiny erythematous 
base and could be consistent with known history of GVHD. IV 
meropenem stopped ___. Awaiting CMV immunostaining. EBV 20 
copies and was repeated ___ and was not amplifyable although 
the sample was slightly hemolysed. She symptomatically improved 
although had persistent diarrhea despite bowel rest. She was 
treated with loperamide. Gradually symptoms improved and pt was 
able to be transition from IV meds to PO meds and diet advanced 
slowly while TPN continued until pt was able to tolerated PO 
diet at a sufficient level to maintain calorie needs. At time of 
d/c TPN had been stopped and pt was taking only POs.
.

# L UE DVT: Swollen L arm post PICC insertion. Had U/S and 
doppler ___ which showed edema but no hematoma or localised 
edema but repeat U/S showed Left Basilic DVT ___.  PICC was 
removed on ___. She did not receive anticoagulation given low 
Plts, guaiac +ve stool and significant ulceration on bx 
suggestive of continued significant bowel inflammation. Later pt 
had some intermittent residual swelling in the arm which was 
attibutated to mild edema because of lingering partial occlusion 
in the veins. Repeat US was negative at that time.
.
Recommend considering chelation therapy for treatment of iron 
overload. Monitor nutritional status and PO intake as well as GI 
symptoms of GVHD
 
Medications on Admission:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8
hours).
2. Budesonide 3 mg Capsule, Sust. Release 24 hr Sig: One (1)
Capsule, Sust. Release 24 hr PO TID (3 times a day).
3. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO DAILY (Daily).
4. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID
(2 times a day).
5. nifedipine 30 mg Tablet Sustained Release Sig: Three (3)
Tablet Sustained Release PO DAILY (Daily).
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2)
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2
times a day) as needed for constipation.
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a
day) as needed for constipation.
9. multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).
10. magnesium oxide 140 mg Capsule Sig: Two (2) Capsule PO BID
(2 times a day).
11. atovaquone 750 mg/5 mL Suspension Sig: Two (2) PO DAILY
(Daily).
12. cyclosporine modified 25 mg Capsule Sig: Two (2) Capsule PO
QAM (once a day (in the morning)).
13. cyclosporine modified 25 mg Capsule Sig: Three (3) Capsule
PO QPM (once a day (in the evening)).
 
Discharge Medications:
1. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
2. nifedipine 90 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. atovaquone 750 mg/5 mL Suspension Sig: Two (2)  PO DAILY 
(Daily).  
6. budesonide 3 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO TID (3 times a day).  
7. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO once a day as 
needed for anxiety, nausea, vomitting, insomnia.  
8. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO 1X/WEEK (TH).
Disp:*30 Capsule(s)* Refills:*2*
9. mycophenolate mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
10. simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas, indigestion.  

11. prednisone 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*2*
12. cyclosporine modified 25 mg Capsule Sig: Three (3) Capsule 
PO Q12H (every 12 hours).
Disp:*180 Capsule(s)* Refills:*2*
13. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
14. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
15. voriconazole 200 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
GVHD in setting of allogenic stem cell transplant for CML
diarrhea
nausea
vomitting
elevated liver function enzymes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of rising liver 
function tests and concern that you were experiencing GVHD 
(rejection symptoms). You had recently been admitted for nausea, 
vomiting, and diarrhea and had responded to immunosupressive. 
You were again admitted to help manage your symptoms by placing 
you on bowel rest, giving you IV forms of your medications and 
supporting you with IV nutrition. Your symptoms gradually 
improved and your diet was able to be slowly advanced. Your 
immunosupressive meds were also titrated to help prevent future 
flairs without oversuppresion of your immune system and bone 
marrow.
.
The following changes were made to your medications:
- Please START taking ...
- Please STOP taking..
- Please CONTINUE taking ...
- Please continue to take all of your other home medications as 
prescribed
.
Please be sure to keep all follow-up appointments with your PCP 
oncologists and other healthcare providers.
.
It was a pleasure taking care of you and we wish you a speedy 
recovery.

 
Followup Instructions:
___